Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Codeine / Sulfa (Sulfonamide Antibiotics) / Latex
 
Attending: ___.
 
Chief Complaint:
s/p mechanical fall
 
Major Surgical or Invasive Procedure:
___: Open reduction internal fixation, right femur.

 
History of Present Illness:
___ year old female who had mechanical fall on ___ resulting 
in a right distal femur periprosthetic fracture requiring 
surgical fixation.
 
Past Medical History:
Hypertension
Hyperlipidimia
Glaucoma
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Physical examination on admission: 
Afebrile with stable vital signs.
No acute distress, Non-toxic. 
Alert and Oriented x 3 
No lymphadenopathy, Neck has full range of motion. 
Pupils equal, reactive to light and extra-ocular motion intact 
bilaterally. 
Lungs Clear bilaterally. 
Cardiac regular rate and rhythm. 
Abdomen soft, non-tender, non-distended, + bowel sounds. 
Extremities: Neurovascular intact throughout. Right leg skin 
intact, mildly swollen, compartments soft, tender to paplation.

 
Pertinent Results:
___ 03:47AM   ___ PTT-21.4* ___
___ 03:47AM   PLT COUNT-281
___ 03:47AM   NEUTS-84.0* LYMPHS-11.3* MONOS-4.3 EOS-0.2 
BASOS-0.2
___ 03:47AM   WBC-11.9*# RBC-4.19* HGB-12.3 HCT-36.8 MCV-88 
MCH-29.3 MCHC-33.3 RDW-14.3
___ 03:47AM   ETHANOL-NEG
___ 03:47AM   estGFR-Using this
___ 03:47AM   GLUCOSE-154* UREA N-12 CREAT-0.7 SODIUM-135 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-26 ANION GAP-12
___ 04:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 04:00AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:00AM URINE  HOURS-RANDOM
___ 02:16PM   PLT COUNT-258
___ 02:16PM   WBC-6.3 RBC-3.53* HGB-10.8* HCT-31.9* MCV-90 
MCH-30.7 MCHC-34.0 RDW-14.3
___ 02:16PM   GLUCOSE-140* UREA N-11 CREAT-0.7 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-107 TOTAL CO2-27 ANION GAP-8
 
Brief Hospital Course:
Ms ___ was admitted to the Orthopedic service on ___ for 
a right distal femur periprosthetic fracture after being 
evaluated and treated with closed reduction in the emergency 
room.  She underwent open reduction internal fixation of the 
right femur on ___ without complication.  Post-operatively, 
she maintained excellent pain control on oral analgesia and 
worked with physical therapy with recommendation that she 
continue physical therapy at a rehabilitation facility upon 
discharge.  The remainder of her hospital course was uneventful 
and Ms ___ is being discharged to her residence's ___ 
___ facility ___ in stable condition.
 
Medications on Admission:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Timolol Maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic 
DAILY (Daily).  
4. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).   
6. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain/fever.  

 
Discharge Medications:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Timolol Maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic 
DAILY (Daily).  
4. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) syringe 
Subcutaneous DAILY (Daily) for 4 weeks.  
7. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain/fever.  
8. Oxycodone 5 mg Capsule Sig: ___ Capsule PO every ___ hours 
as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Right femur periprosthetic fracture
 
Discharge Condition:
Mental Status: Confused - sometimes
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
Wound Care:
-Keep Incision dry. Do not soak the incision in a bath or pool.

Activity: 
- Continue to be touch weight bearing on your right leg
- You should not lift anything greater than 5 pounds
- Knee immobilizer for comfort

- Resume your regular diet
- Avoid nicotine products to optimize healing
- Resume your home medications. Take all medications as 
instructed
- Continue taking Lovenox to prevent blood clots

You have also been given Additional Medications to control your 
pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___ 2. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.

- Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.

If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.

Physical Therapy:
right lower extremity: touch down weight bearing
Treatments Frequency:
- discontinue staples 14 days from date of surgery.
- dry dressing changes as needed
- please monitor for signs on infection at surgical site

 
Followup Instructions:
___